US03931177
A stirred suspension of 3-(3-hydroxy-4-methylbenzoyl) propionic acid (6.75 g, 0.032 mole) in water (40 ml) was treated with hydrazine hydrate (2.4 ml, 0.048 mole) and heated under reflux for 1 hour. The mixture was diluted with water (50 ml), cooled, and the product collected then washed with water. (6.36g, 96%, m.p. 215°-218°C). Crystallisation from ethanol gave pure 6-(3-hydroxy-4-methylphenyl)-4,5-dihydro-3(2H)-pyridazinone, m.p. 216°-218°C

reactant | 3-(3-hydroxy-4-methylbenzoyl) propionic acid | 0.032 mole, 6.75 g | OC=1C=C(C(=O)CCC(=O)O)C=CC1C | C11H12O4
reactant | hydrazine hydrate | 0.048 mole, 2.4 ml | O.NN
solvent | water | 40 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 6-(3-hydroxy-4-methylphenyl)-4,5-dihydro-3(2H)-pyridazinone | OC=1C=C(C=CC1C)C=1CCC(NN1)=O | C11H12N2O2
